US06245773B1
To a suspension of 10% Pd-C (30 mg) in MeOH (10 mL) and H2O (2 mL) was added a solution of 1,6-dihydro-1-{bezyloxycarbonylmethyl)-5-methoxycarbonyl-6-(3,4,5-trifluorophenyl)-2,4-dimethylpyrimidine (300 mg) in methanol (1 mL) and the mixture was hydrogenated at 80 psi for 4 h. The black suspension was filtered through a pad of Celite and washed thoroughly with MeOH (100 mL). Solvent was evaporated from the combined filtrate to leave the product 1,6-dihydro-5-methoxycarbonyl-6-(3,4,5-trifluorophenyl)-2,4-dimethylpyrimidine-1-acetic acid as a white solid (0.225 g). It was used in the next step without further purification.

reactant | 1,6-dihydro-1-{bezyloxycarbonylmethyl)-5-methoxycarbonyl-6-(3,4,5-trifluorophenyl)-2,4-dimethylpyrimidine | 300 mg | C(C1=CC=CC=C1)OC(=O)CN1C(=NC(=C(C1C1=CC(=C(C(=C1)F)F)F)C(=O)OC)C)C | C23H21F3N2O4
solvent | MeOH | 10 mL | CO | CH4O
solvent | H2O | 2 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
catalyst | Pd-C | 30 mg | [Pd] | Pd
product | 1,6-dihydro-5-methoxycarbonyl-6-(3,4,5-trifluorophenyl)-2,4-dimethylpyrimidine-1-acetic acid | 0.225 g | COC(=O)C1=C(N=C(N(C1C1=CC(=C(C(=C1)F)F)F)CC(=O)O)C)C | C16H15F3N2O4
